US05175166
Amino(1,4,5,6-tetrahydropyrimidine-5-yl)acetamide dihydrochloride
Amino(pyrimidin-5-yl)acetamide (950 mg, 6.7 mmol) is suspended in a mixture of 50 ml water and concentrated hydrochloric acid (13.3 mmol). The mixture is hydrogenated at 26 psig over 300 mg Pd-on-carbon 10% in a Parr hydrogenator for 3 h. Then the suspension is filtered and the filter rinsed twice with hot water (20 ml). The filtrate can be evaorated in vacuo to give 1.41 g yellow oil (92%). The oil is crystallized from anhydrous methanol/THF to give 1.33 g (87%) white crystals, identified by 300 MHz nmr.

reactant | Amino(pyrimidin-5-yl)acetamide | 6.7 mmol, 950 mg | NC(C(=O)N)C=1C=NC=NC1 | C6H8N4O
reactant | hydrochloric acid | 13.3 mmol | Cl | ClH
solvent | water | 50 ml | O | H2O
product | Amino(1,4,5,6-tetrahydropyrimidine-5-yl)acetamide dihydrochloride | 1.41 g, 92% | Cl.Cl.NC(C(=O)N)C1CN=CNC1 | InChI=1S/C6H12N4O.2ClH/c7-5(6(8)11)4-1-9-3-10-2-4;;/h3-5H,1-2,7H2,(H2,8,11)(H,9,10);2*1H
